US06610723B2
4-Chloromethyl-2-(3,4-dichloro-phenyl)-pyridine Hydrochloride (1:1)
The title compound, MS: m/e=271.0 (M+) was obtained as a light brown foam (100% yield) by the reaction of [2-(3,4-dichloro-phenyl)-pyridine-4-yl]-methanol with thionyl chloride at 20° C. for 1 h.

reactant | [2-(3,4-dichloro-phenyl)-pyridine-4-yl]-methanol | ClC=1C=C(C=CC1Cl)C1=NC=CC(=C1)CO | C12H9Cl2NO
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 4-Chloromethyl-2-(3,4-dichloro-phenyl)-pyridine Hydrochloride | Cl.ClCC1=CC(=NC=C1)C1=CC(=C(C=C1)Cl)Cl | InChI=1S/C12H8Cl3N.ClH/c13-7-8-3-4-16-12(5-8)9-1-2-10(14)11(15)6-9;/h1-6H,7H2;1H
